US04260816
Ethyl 4-[3-(α-naphthyloxy)propyl]aminobenzoate
A solution of 10 g. 3-(α-naphthyloxy)propyl bromide and 12.5 g. ethyl 4-aminobenzoate in 100 ml. hexamethylphosphoramide is stirred at 110° for 15 hours. The cooled solution is diluted with 200 ml. water and extracted 3 times with 100 ml. portions of ether. The combined extracts are washed with brine, dried and evaporated to an orange residue. The product is crystallized from ethanol to yield a solid which is crystallized from ethanol to yield white crystals, m.p. 93°-94° C.

reactant | 3-(α-naphthyloxy)propyl bromide | C1(=CC=CC2=CC=CC=C12)OCCCBr | C13H13BrO
reactant | ethyl 4-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | Ethyl 4-[3-(α-naphthyloxy)propyl]aminobenzoate | C1(=CC=CC2=CC=CC=C12)OCCCNC1=CC=C(C(=O)OCC)C=C1 | C22H23NO3
